US07129238B2
To a stirred solution of (RS)-(3-benzyloxy-4-methoxy-phenyl)-ethoxy-acetic acid (0.801 g) at rt in ethanol was added 10% Pd/C (0.1 g). The mixture was then stirred at rt under a hydrogen atmosphere for 17 h. The catalyst was filtered off and washed with dichloromethane. The filtrate was concentrated (rotavapor). The residue was purified by chromatography to give (RS)-ethoxy-(3-hydroxy-4-methoxy-phenyl)-acetic acid (0.250 g) as a light yellow gum.

reactant | (RS)-(3-benzyloxy-4-methoxy-phenyl)-ethoxy-acetic acid | 0.801 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C(C(=O)O)OCC | C18H20O5
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | (RS)-ethoxy-(3-hydroxy-4-methoxy-phenyl)-acetic acid | 0.250 g | C(C)OC(C(=O)O)C1=CC(=C(C=C1)OC)O | C11H14O5
